US04592866
2,3-Dihydro-4-methyl-2-[2-(4-morpholinyl)ethyl]pyrido[3,2-f][1,4]oxazepin-5(4H)-thione
2-(2-Chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f][1,4]oxazepine-5(4H)-thione, 4.5 g (0.018 mole) was dissolved in morpholine (30 ml). The solution was heated with stirring to 50°-60° C., for 6 hr. The morpholine was then removed by rotary evaporation (90° C., vacuum pump). The residue was taken up in chloroform (100 ml) and washed with dilute aqueous sodium hydroxide (2×30 ml). The organic layer was concentrated by rotary evaporation (60° C., water aspirator). The residue was recrystallized from ethanol giving 3.26 g (60%) of light yellow crystals, m.p. 152°-153° C.

reactant | 2-(2-Chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f][1,4]oxazepine-5(4H)-thione | ClCCC1OC2=C(C(N(C1)C)=S)C=CC=N2 | C11H13ClN2OS
reactant | morpholine | 30 ml | N1CCOCC1 | C4H9NO
product | 2,3-Dihydro-4-methyl-2-[2-(4-morpholinyl)ethyl]pyrido[3,2-f][1,4]oxazepin-5(4H)-thione | CN1CC(OC2=C(C1=S)C=CC=N2)CCN2CCOCC2 | C15H21N3O2S
